US07129250B2
Intermediate C1: 2-(N-indolyl) acetamide
A solution of indole (10 g; 0.085 mol) in DMF (50 mL) was added dropwise to an ice cooled suspension of NaH (supplied as 60% dispersion in mineral oil) (4.1 g; 0.10 mol) in DMF (100 mL). The reaction was allowed to warm to room temperature and stirred for 4 hours until all NaH was consumed. A solution of iodoacetamide (18.5 g; 0.1 mol) in DMF (50 mL) was added and the reaction left to stir at room temperature overnight. The DMF was removed in vacuo and the residue dissolved in ethyl acetate (1 L). The organic solution was washed with water until the washings were clear (3×500 mL), brine (500 mL), dried over anhydrous magnesium sulfate and the solvent removed in vacuo. Recrystallisation from ethyl acetate provided intermediate C1 as an off white solid (9.20 g, 62%). m.p. 177–179° C. 1H NMR (500 MHz, DMSO-d6) δ 4.79 (2H, s), 6.44 (1H, dd, J 3.1, 0.7), 7.03 (1H, ddd, J 7.8, 7.8, 0.9), 7.13 (1H, ddd, J 8.2, 8.2, 1.0), 7.24 (1H, br), 7.31 (1H, d, J 3.1), 7.35 (1H, dd, J 8.2, 0.6), 7.50 (1H, br), 7.55 (1H, d, J 7.8).

reactant | indole | 0.085 mol, 10 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | NaH | 0.10 mol, 4.1 g | [H-].[Na+]
reactant | iodoacetamide | 0.1 mol, 18.5 g | ICC(=O)N | C2H4INO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(N-indolyl) acetamide | N1(C=CC2=CC=CC=C12)CC(=O)N | C10H10N2O
